* FDC654P ELECTRICAL MODEL  (SOT-6 P-Ch DMOS)
* ---------------------------
.SUBCKT  FDC654P   20  10  30
Rg     10    1    3
M1      2    1    3    3    DMOS    L=1u   W=1u
.MODEL  DMOS PMOS (VTO={-1.7*{-0.00264*TEMP+1.066}}  KP={-0.01*TEMP+5}
+ THETA=0.086 VMAX=5E5 LEVEL=3)
Cgs     1    3    400p
Rd     20    4    14m TC=0.004
Dds     4    3    DDS
.MODEL     DDS    D(BV={30*{0.0007664*TEMP+0.98084}}   M=0.25  CJO=310p   VJ=0.8)
Dbody   20   3    DBODY
.MODEL   DBODY    D(IS=1.4E-13   N=1   RS=90m   TT=29n)
Ra      4    2    14m TC=0.004
Rs      3    5    1m
Ls      5    30   0.9n
M2      1    8    6    6   INTER
E2      8    6    4    1   2
.MODEL  INTER     PMOS(VTO=0  KP=10   LEVEL=1)
Cgdmax  7    4    530p
Rcgd    7    4    10meg
Dgd     4    6    DGD
Rdgd    4    6    10meg
.MODEL     DGD    D(M=0.5   CJO=530p   VJ=0.35)
M3      7    9    1    1   INTER
E3      9    1    4    1   -2
.ENDS FDC654P
*
*
* FDC654P THERMAL MODEL
* ---------------------
.SUBCKT   654PTHM   50  40  100

Rop       50   60   1meg
Cop       60   70   1u   IC=0
E_W       40   70   40   60  1meg

E_Pave    80   40   VALUE = {V(40,70)/(TIME+1n)}
R80       80   40   1k

E_Tja     100   40   VALUE = {V(80,40)*156*V(90,40)}
R100      100   40   1k

R90       90   40   1k
E_rja     90   40   table {TIME} ; Normalized FDC654P Single Pulsed rja(t)
+(0.00001,0.005)
+(0.000034,0.006259)
+(0.000105,0.008063)
+(0.000276,0.01045)
+(0.00096,0.016)
+(0.009857,0.040616)
+(0.04,0.078542)
+(0.1,0.126876)
+(0.22,0.199376)
+(0.24,0.208468)
+(0.26,0.217501)
+(0.28,0.226593)
+(0.3,0.238677)
+(0.32,0.247709)
+(0.34,0.253751)
+(0.36,0.262844)
+(0.38,0.271876)
+(0.4,0.277918)
+(0.42,0.28701)
+(0.44,0.296043)
+(0.46,0.299094)
+(0.48,0.308186)
+(0.5,0.317219)
+(0.52,0.320269)
+(0.54,0.329302)
+(0.56,0.335344)
+(0.58,0.344436)
+(0.6,0.347427)
+(0.62,0.353469)
+(0.64,0.359511)
+(0.66,0.368603)
+(0.68,0.371594)
+(0.7,0.377636)
+(0.72,0.383677)
+(0.74,0.386728)
+(0.76,0.39277)
+(0.78,0.398811)
+(0.8,0.401802)
+(0.82,0.407844)
+(0.84,0.413886)
+(0.86,0.419927)
+(0.88,0.422978)
+(0.9,0.42902)
+(0.92,0.432011)
+(0.94,0.438053)
+(0.96,0.441103)
+(0.98,0.447145)
+(1,0.453187)
+(2,0.604229)
+(3,0.67978)
+(4,0.728114)
+(5,0.75228)
+(6,0.773396)
+(7,0.78548)
+(8,0.794572)
+(9,0.800614)
+(9.98874,0.814996)
+(21.243,0.86915)
+(48.8124,0.926904)
+(100,0.963746)
+(200,0.990937)
+(300,1)
.ENDS 654PTHM
