* FDG6303N ELECTRICAL MODEL (SC70-6 Dual N-Ch DMOS)
* --------------------------------------------------------------
.SUBCKT  FDG6303N 20  10  30
Rg     10    1    1
M1      2    1    3    3    DMOS    L=1u   W=1u
.MODEL DMOS NMOS (VTO={0.9*(-0.00232*TEMP+1.058)}  KP={-0.0005*TEMP+2.5}  THETA=0.096
+ VMAX=VMAX=3.8E5  LEVEL=3)
Cgs     1    3    200p
Rd     20    4    .12 TC=0.004
Dds     3    4    DDS
.MODEL     DDS    D(BV={25*(0.001*TEMP+0.975)}   M=0.36  CJO=23p   VJ=0.8)
Dbody   3   20    DBODY
.MODEL   DBODY    D(IS=1.4E-13   N=1   RS=40m   TT=100n)
Ra      4    2    .12 TC=0.004
Rs      3    5    10m
Ls      5    30   .7n
M2      1    8    6    6   INTER
E2      8    6    4    1   2
.MODEL   INTER    NMOS(VTO=0  KP=10   LEVEL=1)
Cgdmax  7    4    140p
Rcgd    7    4    10meg
Dgd     6    4    DGD
Rdgd    4    6    10meg
.MODEL     DGD    D(M=0.65   CJO=140p   VJ=0.35)
M3      7    9    1    1   INTER
E3      9    1    4    1   -2
.ENDS FDG6303N
