* FDG312P ELECTRICAL MODEL (SOT-6 P-Ch DMOS)
* ------------------------
.SUBCKT  FDG312P  20  10  30
* (20=drain 10=gate 30=source)
Rg     10    1    1
M1      2    1    3    3    DMOS    L=1u   W=1u
.MODEL DMOS PMOS (VTO={-1*(-0.00232*TEMP+1.058)}  KP={-0.0009*TEMP+6}
+   THETA=0.096 VMAX=3.8E5  LEVEL=3)
Cgs     1    3    400p
Rd     20    4    0.03 TC=0.004
Dds     4    3    DDS
.MODEL     DDS    D(BV={20*(0.00088*TEMP+0.978)}   M=0.35  CJO=100p   VJ=0.7)
Dbody   20   3    DBODY
.MODEL   DBODY    D(IS=1E-12   N=1   RS=12.7m   TT=25n)
Ra      4    2    0.03 TC=0.004
Rs      3    5    10m
Ls      5    30   0.5n
M2      1    8    6    6   INTER
E2      8    6    4    1   2
.MODEL   INTER    PMOS(VTO=0  KP=10   LEVEL=1)
Cgdmax  7    4    220p
Rcgd    7    4    10meg
Dgd     4    6    DGD
Rdgd    4    6    10meg
.MODEL     DGD    D(M=0.6   CJO=220p   VJ=0.35)
M3      7    9    1    1   INTER
E3      9    1    4    1   -2
.ENDS FDG312P
